US06479487B1
1-(4-Hydroxybutyl)-4-piperidone is prepared from 4-piperidone and 4-chloro-1-butanol essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 4-chloro-1-butanol | ClCCCCO | C4H9ClO
product | 1-(4-Hydroxybutyl)-4-piperidone | OCCCCN1CCC(CC1)=O | C9H17NO2
